US08980899B2
The intermediate 3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine) (0.5 g, 1.9 mmol; Apsel et al., 2008) was combined with cyclopentyl iodide (0.24 mL, 2.1 mmol), and 1.06 g K2CO3 in 20 mL DMF and heated to 45° C. under argon for 2 hours. The reaction was filtered to remove solid K2CO3. The filtrate was combined with brine, and the organic product was extracted in CH2Cl2 (3×50 mL). The combined organic layer was concentrated in vacuo and purified by silica gel chromatography (MeOH/chloroform; 5:95) to afford 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 330.0, calculated 330.0). 4-nitrophenyl boronic acid (190 mg, 1.1 mmol; Sigma-Aldrich) was coupled to 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine (150 mg, 0.456 mmol) via the Suzuki reaction in 6 mL 1,2 methoxy ethane, 1 mL of saturated sodium carbonate, 1.65 mL EtOH, and 200 mg of polymer-bound tetrakis palladium. The reaction was stirred under argon for 12 hours at room temperature, filtered through Whatman paper to remove palladium, mixed with brine, extracted in chloroform, and the product was subsequently purified on silica in EtOAc and concentrated in vacuo. The purified solid 1-cyclopentyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 325.0, calculated 325.1; 100 mg, 0.31 mmol) was combined with zinc dust (605 mg, 9.25 mmol), 10 mL THF, and 0.35 mL HOAc for 12 hours at room temperature under argon. The reaction was filtered through Celite®, extracted with EtOAc, and concentrated in vacuo to yield 3-(4-aminophenyl)-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ESI-MS m/z [M+H]+ found 295.0, calculated 295.2). To this reduced product, molar equivalents of 3-(trifluoromethyl)phenyl isocyanate (Sigma-Aldrich) were added dropwise in ice-cold CH2Cl2. The reaction proceeded until completion as judged by TLC, was concentrated in vacuo, resuspended in 50:50 H2O—CH3CN, and purified on a C18 column in CH3CN/H2O/0.1% TFA (1-100% gradient) to yield AD60 1-(4-(4-amino-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)-3-(3-(trifluoromethyl)phenyl)urea (ESI-MS m/z [M+H]+ found 482.2, calculated 482.0).

reactant | 4-nitrophenyl boronic acid | 1.1 mmol, 190 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
reactant | 1-cyclopentyl-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.456 mmol, 150 mg | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)I | C10H12IN5
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-cyclopentyl-3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.31 mmol, 100 mg | C1(CCCC1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)[N+](=O)[O-] | C16H16N6O2
catalyst | tetrakis palladium | 200 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1.[Pd]
catalyst | zinc | 9.25 mmol, 605 mg | [Zn] | Zn
solvent | HOAc | 0.35 mL | CC(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOH | 1.65 mL | CCO | C2H6O
product | 3-(4-aminophenyl)-1-cyclopentyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=CC=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C2CCCC2 | C16H18N6
